US06916819B2
To a solution of 4-chloro-3-nitro-pyridine(18.0 g, 114 mmol) in EtOH(300 ml) is added n-propylamine(46.9 ml, 568 mmol) slowly at 0° C. and the resulting yellow mixture is warmed to room temp. After stirring for 2 h, the reaction is concentrated in vacuo. The residue is purified by flash chromatography (eluent 50% Hex/EtOAc) to give (3-nitro-pyridin-4-yl)-propyl-amine as a yellow solid. 1H NMR (CDCl3) δ 9.16 (s, 1H), 8.25(d, J=6 Hz, 1H), 8.15(br s, 1H), 6.68(d, J=6 Hz, 1H), 3.29(q, J=6.8 Hz, 2H), 1.74(sextet, J=7.2 Hz, 2H), 1.02(t, J=7.6 Hz, 3H). LRMS calcd 181.19, found 182.5 (MH+).

reactant | 4-chloro-3-nitro-pyridine | 114 mmol, 18.0 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | n-propylamine | 568 mmol, 46.9 ml | C(CC)N | C3H9N
solvent | EtOH | 300 ml | CCO | C2H6O
product | (3-nitro-pyridin-4-yl)-propyl-amine | [N+](=O)([O-])C=1C=NC=CC1NCCC | C8H11N3O2
